US04117003
A 300 g amount of 1,3-benzenedisulfonic acid disodium salt is added to 400 ml of concentrated sulfuric acid in a 2 liter-three neck flask fitted with a stirrer, thermometer, condenser and a dropping funnel. The mixture is warmed to 80° C., then, without heating, 200 ml of fuming nitric acid is added dropwise maintaining the reaction temperature at 85°-89° C.. When the acid addition is complete the reaction mixture is heated at 85°-88° C. for an additional 4 hours then is allowed to cool overnight. The mixture is poured slowly into ice-water and neutralized to pH 5-6 with calcium hydroxide. The precipitate formed is filtered off and the filtrate is basified to pH 10 with sodium carbonate. Again the precipitate formed is filtered off and the filtrate is concentrated to a small volume. The resulting residue is dissolved in boiling water and filtered. A total of 82 g of 5-nitrobenzene-1,3-disulfonic acid disodium salt is obtained by cooling the filtrate and collecting the precipitate.

reactant | 1,3-benzenedisulfonic acid disodium salt | [Na+].[Na+].C1(=CC(=CC=C1)S(=O)(=O)[O-])S(=O)(=O)[O-]
reactant | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | nitric acid | 200 ml | [N+](=O)(O)[O-] | HNO3
product | 5-nitrobenzene-1,3-disulfonic acid disodium salt | 82 g | [Na+].[Na+].[N+](=O)([O-])C=1C=C(C=C(C1)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C6H5NO8S2.2Na/c8-7(9)4-1-5(16(10,11)12)3-6(2-4)17(13,14)15;;/h1-3H,(H,10,11,12)(H,13,14,15);;/q;2*+1/p-2
